US07772221B2
Step BF (7): To a suspension of benzyl (2S,3S)-4-bromo-1-(3,5-dichlorophenyl)-3-hydroxybutan-2-ylcarbamate (100 mg, 224 umol) in MeOH (2.4 mL) was added K2CO3 (12 mg). The reaction was stirred vigorously overnight. Solvents were removed in vacuo, and the residue partitioned between EtOAc and water three times. The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the solid benzyl (S)-2-(3,5-dichlorophenyl)-1-((S)-oxiran-2-yl)ethylcarbamate (78.9 mg, 97% yield). 1H NMR (DMSO-d6) δ 7.08-7.55 (m, 9H) 4.99 (d, J=12.8 Hz, 1H) 4.89 (d, J=12.8 Hz, 1H) 3.60-3.78 (m, 1H) 2.89-3.06 (m, 2H) 2.60-2.79 (m, 3H).

reactant | benzyl (2S,3S)-4-bromo-1-(3,5-dichlorophenyl)-3-hydroxybutan-2-ylcarbamate | 224 umol, 100 mg | BrC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)NC(OCC1=CC=CC=C1)=O)O | C18H18BrCl2NO3
reactant | K2CO3 | 12 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 2.4 mL | CO | CH4O
product | benzyl (S)-2-(3,5-dichlorophenyl)-1-((S)-oxiran-2-yl)ethylcarbamate | 78.9 mg, 97% yield | ClC=1C=C(C=C(C1)Cl)C[C@@H]([C@@H]1OC1)NC(OCC1=CC=CC=C1)=O | C18H17Cl2NO3
